* G:\My Drive\Graduate Reserach\LTSpice\Flyback\EVAL-CN0342-EB1Z_AURA.asc
V1 N010 0 20
R9 N001 N010 20
M1 N006 0 0 0 NMOS
L1 N004 N006 1m
L2 0 N003 1m
C1 N005 0 10µ
R1 N005 0 10
L3 N004 N006 0.5m
M2 N005 N003 N003 N003 NMOS
L4 N001 N002 0.5m
M3 N007 N006 N006 N006 NMOS
C2 N001 N007 10µ
R2 N001 N007 10
R3 N002 N004 0.1
R10 N001 N002 0.5m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L2 L1 1
.tran 1
.backanno
.end
